US07119120B2
1-(4-Fluoro-3-nitro-phenyl)-3-(3-trifluoromethyl-phenyl)-urea
4-Fluoro-3-nitrophenyl isocyanate (15 g, 82.40 mmol) was dissolved in 200 mL of methylene chloride under a nitrogen atmosphere. A solution of 3-trifluoromethyl aniline (13.27 g, 82.40 mmol) dissolved in 50 mL of methylene chloride was added drop-wise. The reaction was left to stir for 12 hours. During this time, a yellow precipitate formed. This solid was collected by filtration and dried under vacuum to give 27.9 g of pure product (98% yield). 1H NMR (400 MHz CDCl3) δ: 7.25 (dd, 1H), 7.39–7.46 (m, 2H), 7.55 (d, 1H), 7.63–7.67 (m, 1H), 7.94 (s, 1H), 8.36 (dd, 1H), 9.14 (s, 1H), 9.21 (s, 1H). MS: m/z 366 (M+Na+).

reactant | 4-Fluoro-3-nitrophenyl isocyanate | 82.40 mmol, 15 g | FC1=C(C=C(C=C1)N=C=O)[N+](=O)[O-] | C7H3FN2O3
reactant | 3-trifluoromethyl aniline | 82.40 mmol, 13.27 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
solvent | methylene chloride | 200 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Fluoro-3-nitro-phenyl)-3-(3-trifluoromethyl-phenyl)-urea | 27.9 g, 98% yield | FC1=C(C=C(C=C1)NC(=O)NC1=CC(=CC=C1)C(F)(F)F)[N+](=O)[O-] | C14H9F4N3O3
